*SRC=BZT52C2V7LP;BZT52C2V7LP;Diodes;Zener <=10V; 2.70V  0.250W   DIODES ZENER DIODE
*SYM=HZEN
.SUBCKT BZT52C2V7LP  1 2
*        Terminals    A   K
D1 1 2 DF
DZ 3 1 DR
VZ 2 3 0.164
.MODEL DF D ( IS=38.1p RS=34.8 N=1.10
+ CJO=152p VJ=0.750 M=0.330 TT=50.1n )
.MODEL DR D ( IS=7.63f RS=84.5 N=3.00 )
.ENDS
